US07642367B2
5-Dibutylamino-2-methoxy-benzaldehyde
2-(5-Bromo-2-methoxy-phenyl)-[1,3]dioxane (40 mmol), di-n-butylamine (48 mmol), Pd2(dba)3 (0.2 mmol, 1 mol % Pd), P(o-tol)3 (0.6 mmol) and Na-t-OBu (68 mmol) was stirred in degassed toluene (60 mL) at 80° C. for 18 h. The darkbrown mixture was poured into icecold hydrochloric acid (1 M, 200 mL) and stirred vigorously for 2 hours at 25° C. The solution was cooled to 0° C. and pH was adjusted to 9 using 6M NaOH(aq) and extracted with Et2O (4×100 mL). The organic phase was dried (Na2SO4) and the solvent was removed under reduced pressure. The resulting crude oil purified by flash chromatography using EtOAc/n-heptane (1:4, v/v) as eluent. The product was isolated as yellow oil in 46% yield.

reactant | 2-(5-Bromo-2-methoxy-phenyl)-[1,3]dioxane | 40 mmol | BrC=1C=CC(=C(C1)C1OCCCO1)OC | C11H13BrO3
reactant | di-n-butylamine | 48 mmol | C(CCC)NCCCC | C8H19N
reactant | P(o-tol)3 | 0.6 mmol | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | hydrochloric acid | 1 M, 200 mL | Cl | ClH
reactant | NaOH | 6M | [OH-].[Na+]
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2(dba)3 | 0.2 mmol | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 5-Dibutylamino-2-methoxy-benzaldehyde | 46% yield | C(CCC)N(C=1C=CC(=C(C=O)C1)OC)CCCC | C16H25NO2
